US06331538B1
Ethyl 2-chloro-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylate
To a solution of ethyl 2,6-dichloro-5-fluoro-3-pyridinecarboxylate (3.00 g, 12.6 mmol: J. Med. Chem., 1986;29:2363) and triethylamine (2.63 mL, 18.90 mmol) in acetonitrile (15 mL) was added pyrrolidine (1.05 mL, 12.6 mmol) dropwise. After being stirred at 60° C. for 1 hour, the reaction mixture was evaporated, and the residue was dissolved in dichloromethane, washed with water, and dried over anhydrous sodium sulfate. The residue was purified on a silica gel column using hexane/dichloromethane (7:3) as eluent giving 2.5 g of the title compound as a solid, mp 95° C.

reactant | ethyl 2,6-dichloro-5-fluoro-3-pyridinecarboxylate | 12.6 mmol, 3.00 g | ClC1=NC(=C(C=C1C(=O)OCC)F)Cl | C8H6Cl2FNO2
reactant | triethylamine | 18.90 mmol, 2.63 mL | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 12.6 mmol, 1.05 mL | N1CCCC1 | C4H9N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Ethyl 2-chloro-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylate | 2.5 g | ClC1=NC(=C(C=C1C(=O)OCC)F)N1CCCC1 | C12H14ClFN2O2
